US06002008
N-{4-[(3-Chloro-4-fluoro-phenyl)amino]-3-cyano-6-quinolinyl}-2-butynamide
Dissolved 336 mg (4.00 mmol) 2-butynoic acid in 20 ml of THF and chilled to 0° C. under N2. Added 520 μl (4.00 mmol) isobutyl chloroformate and 440 μl (4.00 mmol) N-methylmorpholine and stirred for 10 minutes. Added a solution of 500 mg (1.60 mmol) 6-amino-4-[(3-chloro-4-fluorophenyl)amino]-3-quinolinecarbonitrile, stirred for minutes at 0° C. and then at 25° C. overnight. Stripped solvent, washed with water, collected and dried in vacuo. Recrystallized from ethyl acetate, giving 148 mg of a yellow solid: mass spectrum (electrospray m/e): M+H=379.1, 381.1.

reactant | 2-butynoic acid | 4.00 mmol, 336 mg | C(C#CC)(=O)O | C4H4O2
reactant | isobutyl chloroformate | 4.00 mmol, 520 μl | ClC(=O)OCC(C)C | C5H9ClO2
reactant | N-methylmorpholine | 4.00 mmol, 440 μl | CN1CCOCC1 | C5H11NO
reactant | 6-amino-4-[(3-chloro-4-fluorophenyl)amino]-3-quinolinecarbonitrile | 1.60 mmol, 500 mg | NC=1C=C2C(=C(C=NC2=CC1)C#N)NC1=CC(=C(C=C1)F)Cl | C16H10ClFN4
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | N-{4-[(3-Chloro-4-fluoro-phenyl)amino]-3-cyano-6-quinolinyl}-2-butynamide | 148 mg | ClC=1C=C(C=CC1F)NC1=C(C=NC2=CC=C(C=C12)NC(C#CC)=O)C#N | C20H12ClFN4O
